US08975398B2
1-(pyridin-3-yl)-N-(4-{[1-(tetrahydro-2H-pyran-4-ylacetyl)piperidin-4-yl]oxy}phenyl)azetidine-3-carboxamide
The title compound was prepared as described in Example 1A, substituting N-(4-(piperidin-4-yloxy)phenyl)-1-(pyridin-3-yl)azetidine-3-carboxamide for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate and 2-(tetrahydro-2H-pyran-4-yl)acetic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.95 (bs, 1H), 7.93 (d, J=4.2 Hz, 1H), 7.88-7.83 (m, 1H), 7.55-7.47 (m, 2H), 7.26-7.08 (m, 1H), 7.01-6.78 (m, 3H), 4.14-4.04 (m, 2H), 4.02-3.62 (m, 6H), 2.37-1.73 (m, 6H), 1.66-1.00 (m, 8H); MS (ESI(+)) m/e 479 (M+H)+.

reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | 2-(tetrahydro-2H-pyran-4-yl)acetic acid | O1CCC(CC1)CC(=O)O | C7H12O3
reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
product | 1-(pyridin-3-yl)-N-(4-{[1-(tetrahydro-2H-pyran-4-ylacetyl)piperidin-4-yl]oxy}phenyl)azetidine-3-carboxamide | N1=CC(=CC=C1)N1CC(C1)C(=O)NC1=CC=C(C=C1)OC1CCN(CC1)C(CC1CCOCC1)=O | C27H34N4O4
